US04625046
5-Methyl-2-(1-propenyl)-2-propyl-4-hexenenitrile
In analogy to Example 1, 64 g (1.6 moles) of NaOH, 200 ml of toluene, and 15 g of tetrabutylammonium bromide were first introduced and heated to 75° C. To this mixture was added a mixture of 147.6 g (1.2 moles) of 2-propyl-2-pentenenitrile and 157 g (1.5 moles) of prenyl chloride within 2 hours in individual doses. The reaction mixture was further heated for 3 hours at 85° C. and subsequently processed according to Example 1. The yield in desired product was 103 g, corresponding to 44.9% of the theoretical.

reactant | NaOH | 1.6 moles, 64 g | [OH-].[Na+]
reactant | 2-propyl-2-pentenenitrile | 1.2 moles, 147.6 g | C(CC)C(C#N)=CCC | C8H13N
reactant | prenyl chloride | 1.5 moles, 157 g | C(C=C(C)C)Cl | C5H9Cl
catalyst | tetrabutylammonium bromide | 15 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Methyl-2-(1-propenyl)-2-propyl-4-hexenenitrile | CC(=CCC(C#N)(CCC)C=CC)C | C13H21N
